*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-23 06:32:13
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L10_1|CTX_L30_16|CTX_L8_4 753.839a
Cext_2 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L10_2|CTX_L30_17|CTX_L8_5 28.7534a
Cext_3 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L134_2 12.0089a
Cext_4 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L30_14 89.6679a
Cext_5 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L30_18 28.9541a
Cext_6 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L30_19 40.0385a
Cext_7 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_1 2.73851a
Cext_8 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_10 43.6399a
Cext_9 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_11 0.947296a
Cext_10 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_12 0.606341a
Cext_11 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_13 0.47499a
Cext_12 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_2 50.9591a
Cext_13 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_6 144.996a
Cext_14 CTX_L10_0|CTX_L30_15|CTX_L8_3 CTX_L8_9 0.372393a
Cext_15 CTX_L10_0|CTX_L30_15|CTX_L8_3 VSUBS 691.742a
Cext_16 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L10_2|CTX_L30_17|CTX_L8_5 1.58793f
Cext_17 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L134_2 19.3088a
Cext_18 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L30_14 87.8799a
Cext_19 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L30_18 29.111a
Cext_20 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L30_19 40.1954a
Cext_21 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_1 4.00481a
Cext_22 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_13 0.372393a
Cext_23 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_14 43.6399a
Cext_24 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_15 0.947296a
Cext_25 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_16 0.606341a
Cext_26 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_17 0.47499a
Cext_27 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_2 54.084a
Cext_28 CTX_L10_1|CTX_L30_16|CTX_L8_4 CTX_L8_6 145.224a
Cext_29 CTX_L10_1|CTX_L30_16|CTX_L8_4 VSUBS 725.423a
Cext_30 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L134_2 25.924a
Cext_31 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L30_14 73.3684a
Cext_32 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L30_18 2.38098f
Cext_33 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L30_19 33.8396a
Cext_34 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L8_1 4.77517a
Cext_35 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L8_17 0.372393a
Cext_36 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L8_18 43.6399a
Cext_37 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L8_2 49.372a
Cext_38 CTX_L10_2|CTX_L30_17|CTX_L8_5 CTX_L8_6 134.612a
Cext_39 CTX_L10_2|CTX_L30_17|CTX_L8_5 VSUBS 781.456a
Cext_40 CTX_L126_0|CTX_L134_0 CTX_L134_1 621.196a
Cext_41 CTX_L126_0|CTX_L134_0 CTX_L30_0 136.62a
Cext_42 CTX_L126_0|CTX_L134_0 CTX_L30_1 63.2028a
Cext_43 CTX_L126_0|CTX_L134_0 CTX_L30_10 2.09573a
Cext_44 CTX_L126_0|CTX_L134_0 CTX_L30_11 1.919a
Cext_45 CTX_L126_0|CTX_L134_0 CTX_L30_12 1.08315a
Cext_46 CTX_L126_0|CTX_L134_0 CTX_L30_2 3.68001a
Cext_47 CTX_L126_0|CTX_L134_0 CTX_L30_5 13.7165a
Cext_48 CTX_L126_0|CTX_L134_0 CTX_L30_7 7.61825a
Cext_49 CTX_L126_0|CTX_L134_0 CTX_L30_8 5.08133a
Cext_50 CTX_L126_0|CTX_L134_0 CTX_L30_9 2.29501a
Cext_51 CTX_L126_0|CTX_L134_0 CTX_L67_0 160.44a
Cext_52 CTX_L126_0|CTX_L134_0 CTX_L67_1 186.996a
Cext_53 CTX_L126_0|CTX_L134_0 CTX_L67_4 36.0111a
Cext_54 CTX_L126_0|CTX_L134_0 CTX_L67_5 28.5581a
Cext_55 CTX_L126_0|CTX_L134_0 CTX_L67_6 17.345a
Cext_56 CTX_L126_0|CTX_L134_0 CTX_L67_7 12.0506a
Cext_57 CTX_L126_0|CTX_L134_0 CTX_L8_0 108.181a
Cext_58 CTX_L126_0|CTX_L134_0 N 73.5365a
Cext_59 CTX_L126_0|CTX_L134_0 P 232.86a
Cext_60 CTX_L126_0|CTX_L134_0 VSUBS 3.36833f
Cext_61 CTX_L134_1 CTX_L134_2 661.001a
Cext_62 CTX_L134_1 CTX_L30_0 76.0125a
Cext_63 CTX_L134_1 CTX_L30_1 14.3583a
Cext_64 CTX_L134_1 CTX_L30_10 32.1719a
Cext_65 CTX_L134_1 CTX_L30_11 32.0556a
Cext_66 CTX_L134_1 CTX_L30_12 36.4758a
Cext_67 CTX_L134_1 CTX_L30_13 27.7128a
Cext_68 CTX_L134_1 CTX_L30_14 82.7046a
Cext_69 CTX_L134_1 CTX_L30_2 1.32424a
Cext_70 CTX_L134_1 CTX_L30_3 1.32424a
Cext_71 CTX_L134_1 CTX_L30_4 3.09993a
Cext_72 CTX_L134_1 CTX_L30_5 29.0862a
Cext_73 CTX_L134_1 CTX_L30_6 20.5905a
Cext_74 CTX_L134_1 CTX_L30_7 51.5201a
Cext_75 CTX_L134_1 CTX_L30_8 34.9019a
Cext_76 CTX_L134_1 CTX_L30_9 32.2827a
Cext_77 CTX_L134_1 CTX_L67_0 87.1945a
Cext_78 CTX_L134_1 CTX_L67_1 48.4401a
Cext_79 CTX_L134_1 CTX_L67_4 34.6332a
Cext_80 CTX_L134_1 CTX_L67_5 42.6853a
Cext_81 CTX_L134_1 CTX_L67_6 52.3305a
Cext_82 CTX_L134_1 CTX_L67_7 120.211a
Cext_83 CTX_L134_1 CTX_L8_0 40.8354a
Cext_84 CTX_L134_1 CTX_L8_1 11.8708a
Cext_85 CTX_L134_1 N 31.9665a
Cext_86 CTX_L134_1 P 49.8843a
Cext_87 CTX_L134_1 VSUBS 2.40816f
Cext_88 CTX_L134_2 CTX_L30_10 4.11a
Cext_89 CTX_L134_2 CTX_L30_11 4.22785a
Cext_90 CTX_L134_2 CTX_L30_12 4.34062a
Cext_91 CTX_L134_2 CTX_L30_13 18.9165a
Cext_92 CTX_L134_2 CTX_L30_14 309.999a
Cext_93 CTX_L134_2 CTX_L30_18 20.5608a
Cext_94 CTX_L134_2 CTX_L30_19 19.7312a
Cext_95 CTX_L134_2 CTX_L30_7 3.61258a
Cext_96 CTX_L134_2 CTX_L30_8 3.86421a
Cext_97 CTX_L134_2 CTX_L30_9 3.98838a
Cext_98 CTX_L134_2 CTX_L8_1 1.08043a
Cext_99 CTX_L134_2 CTX_L8_2 18.7217a
Cext_100 CTX_L134_2 CTX_L8_6 14.8381a
Cext_101 CTX_L134_2 VSUBS 874.137a
Cext_102 CTX_L30_0 CTX_L30_1 144.502a
Cext_103 CTX_L30_0 CTX_L67_0 85.4872a
Cext_104 CTX_L30_0 CTX_L67_1 31.3935a
Cext_105 CTX_L30_0 CTX_L8_0 32.5205a
Cext_106 CTX_L30_0 VSUBS 1.18162f
Cext_107 CTX_L30_1 CTX_L30_2 4.30617f
Cext_108 CTX_L30_1 CTX_L67_0 5.64301a
Cext_109 CTX_L30_1 CTX_L67_1 6.53623a
Cext_110 CTX_L30_1 P 92.488a
Cext_111 CTX_L30_1 VSUBS 608.735a
Cext_112 CTX_L30_10 CTX_L30_11 4.30617f
Cext_113 CTX_L30_10 CTX_L30_9 4.30617f
Cext_114 CTX_L30_10 CTX_L67_7 9.74989a
Cext_115 CTX_L30_10 CTX_L8_1 3.28868a
Cext_116 CTX_L30_10 VSUBS 121.155a
Cext_117 CTX_L30_11 CTX_L30_12 4.30617f
Cext_118 CTX_L30_11 CTX_L67_7 8.4175a
Cext_119 CTX_L30_11 CTX_L8_1 3.76818a
Cext_120 CTX_L30_11 VSUBS 121.155a
Cext_121 CTX_L30_12 CTX_L30_13 742.443a
Cext_122 CTX_L30_12 CTX_L67_7 7.32725a
Cext_123 CTX_L30_12 CTX_L8_1 4.35239a
Cext_124 CTX_L30_12 VSUBS 234.02a
Cext_125 CTX_L30_13 CTX_L30_14 564.479a
Cext_126 CTX_L30_13 CTX_L67_7 5.04647a
Cext_127 CTX_L30_13 CTX_L8_1 7.07541a
Cext_128 CTX_L30_13 VSUBS 387.532a
Cext_129 CTX_L30_14 CTX_L30_18 2.53566a
Cext_130 CTX_L30_14 CTX_L8_1 430.048a
Cext_131 CTX_L30_14 CTX_L8_2 9.69848a
Cext_132 CTX_L30_14 VSUBS 1.45799f
Cext_133 CTX_L30_18 CTX_L30_19 2.39232f
Cext_134 CTX_L30_18 CTX_L8_1 3.65645a
Cext_135 CTX_L30_18 CTX_L8_2 13.0596a
Cext_136 CTX_L30_18 VSUBS 170.777a
Cext_137 CTX_L30_19 CTX_L8_1 3.04291a
Cext_138 CTX_L30_19 CTX_L8_11 0.368127a
Cext_139 CTX_L30_19 CTX_L8_12 0.368127a
Cext_140 CTX_L30_19 CTX_L8_13 0.511079a
Cext_141 CTX_L30_19 CTX_L8_15 0.368127a
Cext_142 CTX_L30_19 CTX_L8_16 0.368127a
Cext_143 CTX_L30_19 CTX_L8_17 0.511079a
Cext_144 CTX_L30_19 CTX_L8_2 56.6228a
Cext_145 CTX_L30_19 CTX_L8_6 25.4765a
Cext_146 CTX_L30_19 CTX_L8_7 0.368127a
Cext_147 CTX_L30_19 CTX_L8_8 0.368127a
Cext_148 CTX_L30_19 CTX_L8_9 0.511079a
Cext_149 CTX_L30_19 VSUBS 661.456a
Cext_150 CTX_L30_2 CTX_L30_3 4.30617f
Cext_151 CTX_L30_2 N 92.488a
Cext_152 CTX_L30_2 VSUBS 121.155a
Cext_153 CTX_L30_3 CTX_L30_4 4.30617f
Cext_154 CTX_L30_3 CTX_L67_4 92.488a
Cext_155 CTX_L30_3 VSUBS 121.155a
Cext_156 CTX_L30_4 CTX_L30_5 4.30617f
Cext_157 CTX_L30_4 CTX_L67_5 92.488a
Cext_158 CTX_L30_4 VSUBS 121.155a
Cext_159 CTX_L30_5 CTX_L30_6 4.30617f
Cext_160 CTX_L30_5 CTX_L67_5 51.178a
Cext_161 CTX_L30_5 CTX_L67_6 51.178a
Cext_162 CTX_L30_5 VSUBS 121.155a
Cext_163 CTX_L30_6 CTX_L30_7 213.177a
Cext_164 CTX_L30_6 CTX_L67_6 92.488a
Cext_165 CTX_L30_6 CTX_L67_7 31.3935a
Cext_166 CTX_L30_6 VSUBS 498.868a
Cext_167 CTX_L30_7 CTX_L30_8 1.26652f
Cext_168 CTX_L30_7 CTX_L67_7 32.0937a
Cext_169 CTX_L30_7 CTX_L8_1 2.04259a
Cext_170 CTX_L30_7 VSUBS 556.148a
Cext_171 CTX_L30_8 CTX_L30_9 4.30617f
Cext_172 CTX_L30_8 CTX_L67_7 13.4369a
Cext_173 CTX_L30_8 CTX_L8_1 2.55965a
Cext_174 CTX_L30_8 VSUBS 178.435a
Cext_175 CTX_L30_9 CTX_L67_7 11.3931a
Cext_176 CTX_L30_9 CTX_L8_1 2.89151a
Cext_177 CTX_L30_9 VSUBS 121.155a
Cext_178 CTX_L67_0 CTX_L67_1 4.40905f
Cext_179 CTX_L67_0 CTX_L8_0 26.4652a
Cext_180 CTX_L67_0 VSUBS 572.569a
Cext_181 CTX_L67_1 CTX_L8_0 4.90995a
Cext_182 CTX_L67_1 P 239.266a
Cext_183 CTX_L67_1 VSUBS 423.717a
Cext_184 CTX_L67_4 CTX_L67_5 4.40905f
Cext_185 CTX_L67_4 N 4.40905f
Cext_186 CTX_L67_4 VSUBS 51.5994a
Cext_187 CTX_L67_5 CTX_L67_6 1.60753f
Cext_188 CTX_L67_5 VSUBS 71.7833a
Cext_189 CTX_L67_6 CTX_L67_7 1.60753f
Cext_190 CTX_L67_6 VSUBS 110.383a
Cext_191 CTX_L67_7 VSUBS 558.251a
Cext_192 CTX_L8_0 VSUBS 1.78611f
Cext_193 CTX_L8_1 CTX_L8_2 74.8015a
Cext_194 CTX_L8_1 VSUBS 1.78279f
Cext_195 CTX_L8_10 CTX_L8_11 15.8928a
Cext_196 CTX_L8_10 CTX_L8_6 49.9194a
Cext_197 CTX_L8_10 CTX_L8_9 3.01787a
Cext_198 CTX_L8_10 VSUBS 49.0349a
Cext_199 CTX_L8_11 CTX_L8_12 85.3224a
Cext_200 CTX_L8_11 CTX_L8_6 5.6551a
Cext_201 CTX_L8_11 VSUBS 40.662a
Cext_202 CTX_L8_12 CTX_L8_13 31.9278a
Cext_203 CTX_L8_12 CTX_L8_6 7.10162a
Cext_204 CTX_L8_12 VSUBS 34.8538a
Cext_205 CTX_L8_13 CTX_L8_14 3.01787a
Cext_206 CTX_L8_13 CTX_L8_6 11.371a
Cext_207 CTX_L8_13 VSUBS 54.814a
Cext_208 CTX_L8_14 CTX_L8_15 15.8928a
Cext_209 CTX_L8_14 CTX_L8_6 49.9194a
Cext_210 CTX_L8_14 VSUBS 49.0349a
Cext_211 CTX_L8_15 CTX_L8_16 85.3224a
Cext_212 CTX_L8_15 CTX_L8_6 5.6551a
Cext_213 CTX_L8_15 VSUBS 40.662a
Cext_214 CTX_L8_16 CTX_L8_17 31.9278a
Cext_215 CTX_L8_16 CTX_L8_6 7.10162a
Cext_216 CTX_L8_16 VSUBS 34.8538a
Cext_217 CTX_L8_17 CTX_L8_18 3.01787a
Cext_218 CTX_L8_17 CTX_L8_6 11.371a
Cext_219 CTX_L8_17 VSUBS 54.814a
Cext_220 CTX_L8_18 CTX_L8_6 49.9194a
Cext_221 CTX_L8_18 VSUBS 62.4441a
Cext_222 CTX_L8_2 CTX_L8_6 689.916a
Cext_223 CTX_L8_2 VSUBS 1.30757f
Cext_224 CTX_L8_6 CTX_L8_7 5.6551a
Cext_225 CTX_L8_6 CTX_L8_8 7.10162a
Cext_226 CTX_L8_6 CTX_L8_9 11.371a
Cext_227 CTX_L8_6 VSUBS 1.49288f
Cext_228 CTX_L8_7 CTX_L8_8 85.3224a
Cext_229 CTX_L8_7 VSUBS 54.0712a
Cext_230 CTX_L8_8 CTX_L8_9 31.9278a
Cext_231 CTX_L8_8 VSUBS 34.8538a
Cext_232 CTX_L8_9 VSUBS 54.814a
Cext_233 N P 4.40905f
Cext_234 N VSUBS 51.5994a
Cext_235 P VSUBS 395.173a
.ENDS sense_fill_clip
